US03966801
Ethyl α-hydroxy-γ-(2'-chloro-4-biphenylyl)butyrate 0.1 mole is stirred with 20 ml. of isopropylamine at about 35°C with stirring overnight and the temperature is then raised to reflux for 28 hours. The reaction mixture is evaporated in vacuo and the residue distilled to obtain N-isopropyl α-hydroxy-γ-(2'-chloro-4-biphenylyl)butyramide.

reactant | Ethyl α-hydroxy-γ-(2'-chloro-4-biphenylyl)butyrate | 0.1 mole | OC(C(=O)OCC)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C18H19ClO3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-isopropyl α-hydroxy-γ-(2'-chloro-4-biphenylyl)butyramide | C(C)(C)NC(C(CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)O)=O | C19H22ClNO2
